US06900227B2
Preparation of 2,2-bis-(3,5-difluoro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester
239 mg dichloro-bis(3,5-difluorophenyl)methane and 141 mg ethyl 3,4-dihydroxybenzoate were heated to 180° C. for 2 h 15 min. The brown mixture was diluted with dichloromethane, washed with sat. NaHCO3 solution and water. The dried solution was evaporated and the residue purified on silica gel to provide 284 mg resinous oil. MS: 419 ([M+H]+).

reactant | dichloro-bis(3,5-difluorophenyl)methane | 239 mg | ClC(C1=CC(=CC(=C1)F)F)(C1=CC(=CC(=C1)F)F)Cl | C13H6Cl2F4
reactant | ethyl 3,4-dihydroxybenzoate | 141 mg | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2-bis-(3,5-difluoro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester | 284 mg | C(C)OC(=O)C1=CC2=C(OC(O2)(C2=CC(=CC(=C2)F)F)C2=CC(=CC(=C2)F)F)C=C1 | C22H14F4O4
